US05496875
Preparation of dodecyl 1,2,2,6,6-pentamethyl-4-piperidyl succinate.
The product is prepared as described in Example 4b by reacting 27.1 g (0.1 mol) of mono(1,2,2,6,6-pentamethyl-4-piperidyl) succinate with 24.9 g (0.1 mol) of 1-bromododecane in the presence of 10.1 g (0.1 mol) of triethylamine. The product has a boiling point of 190° C./4 mbar.

reactant | mono(1,2,2,6,6-pentamethyl-4-piperidyl) succinate | 0.1 mol, 27.1 g | C(CCC(=O)[O-])(=O)OC1CC(N(C(C1)(C)C)C)(C)C
reactant | 1-bromododecane | 0.1 mol, 24.9 g | BrCCCCCCCCCCCC | C12H25Br
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
product | dodecyl 1,2,2,6,6-pentamethyl-4-piperidyl succinate | C(CCC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(=O)OCCCCCCCCCCCC | C26H49NO4
